US06228893B1
A solution of n-butyl lithium (1.02 ml) was added dropwise to a solution of 304 mg of 1,1-(ethylenedioxy)-2-methyl-3-(phenylsulfonyl)-cyclohexane and 4 mg of triphenylmethane in 5 ml of THF at −78° C. under an argon stream. After stirring for 10 minutes, the reaction was effected at room temperature for 1 hour. HMPA (1 ml) was added to the reaction mixture. It was then recooled to −78° C., followed by the dropwise addition of a solution of 90 mg of 10-bromo-1-decanol in 2 ml of THF. After reaction at −20° C. for 2 hours, the reaction mixture was poured into a saturated solution of ammonium chloride. The resulting mixture was extracted with ethyl ether. The organic layer was washed with water and saturated saline and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column while using hexane-ethyl acetate, whereby 1,2-(ethylenedioxy)-3-(10-hydroxydecyl)-2-methyl-3-(phenylsulfonyl)-cyclohexane was obtained in the form of a colorless oil. Yield: 92%

reactant | n-butyl lithium | 1.02 ml | C(CCC)[Li]
reactant | 1,1-(ethylenedioxy)-2-methyl-3-(phenylsulfonyl)-cyclohexane | 304 mg | C1OC2(C(C(CCC2)S(=O)(=O)C2=CC=CC=C2)C)OC1 | C15H20O4S
reactant | triphenylmethane | 4 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
reactant | 10-bromo-1-decanol | 90 mg | BrCCCCCCCCCCO | C10H21BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | HMPA | 1 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1,2-(ethylenedioxy)-3-(10-hydroxydecyl)-2-methyl-3-(phenylsulfonyl)-cyclohexane | Yield: 92% | C1OC2C(C(CCC2)(S(=O)(=O)C2=CC=CC=C2)CCCCCCCCCCO)(C)OC1 | C25H40O5S
